US05047414
Acetic acid is added to a solution of ethyl 4-(2-formylamino-ethylthio)-3-oxo-butanoate (12.5 g) in MeOH (ml 120), previously saturated with ammonia at 0° C. and cooled at 0° C., up to pH 4-45. The mixture is refluxed for 2 hours and the excess solvent is evaporated in vacuum, to give a syrup from which a solid material is separated by treatment with AcOEt. After filtration, the organic phase is washed with water (8×10 ml), and with a saturated aqueous solution of NaHCO3 (3×10 ml), dried (Na2SO4) and concentrated in vacuum to give 11,5 g of ethyl 3-amino-4-(2-formylaminoethylthio)crotonate as a yellow oil.

reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | ethyl 4-(2-formylamino-ethylthio)-3-oxo-butanoate | 12.5 g | C(=O)NCCSCC(CC(=O)OCC)=O | C9H15NO4S
reactant | ammonia | N | H3N
solvent | MeOH | CO | CH4O
product | ethyl 3-amino-4-(2-formylaminoethylthio)crotonate | 11,5 g | N\C(=C/C(=O)OCC)\CSCCNC=O | C9H16N2O3S
